* source SENIOR DESIGN P1
R_R5         OUT5 N19191  1k TC=0,0 
E_U11         OUT5 0 VALUE {LIMIT(V(N18987,N19191)*1E6,-15V,+15V)}
R_R4         GND N18987  8k TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N18915 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U2         N18851 N18915 N18683 GND N18859 GND DFFRS_ABM PARAMS: VIH=0.8
+  VOH=3.5 VOL=0.4
X_U6         N19335 GND GND N18851 GND GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
X_U9         N19335 N19563 GND N18891 GND GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
X_U4         N18879 N18915 N18683 GND N18891 GND DFFRS_ABM PARAMS: VIH=0.8
+  VOH=3.5 VOL=0.4
X_U10         GND GND GND N18907 N19563 GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
R_R2         GND N18987  2k TC=0,0 
X_U8         N19335 GND GND N18879 GND GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
V_V2         N19629 GND 15V
X_U3         N18859 N18915 N18683 GND N18879 GND DFFRS_ABM PARAMS: VIH=0.8
+  VOH=3.5 VOL=0.4
R_R7         N19335 N19837  50 TC=0,0 
V_V1         N19781 GND 7.4V
X_U5         N18891 N18915 N18683 GND N18907 GND DFFRS_ABM PARAMS: VIH=0.8
+  VOH=3.5 VOL=0.4
X_U7         N19335 GND GND N18859 GND GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
V_V3         N18683 GND DC 5Vdc AC 5Vac 
R_R3         GND N18987  4k TC=0,0 
R_R8         GND N19335  15k TC=0,0 
R_R1         GND N18987  1k TC=0,0 
X_U1         GND N18915 GND N18683 N18851 GND DFFRS_ABM PARAMS: VIH=0.8 VOH=3.5
+  VOL=0.4
R_R6         N19191 GND  320 TC=0,0 
X_U12A         N19781 OUT5 N19629 GND N19837 AD648C
